US07488789B2
(2) Synthesis of (3-tert-butyl-5-methyl-cyclopentadienyl) (fluorenyl)di(p-tolyl)methane
In a 200 ml three-necked flask equipped with a magnetic stirrer chip and three-way cock thoroughly purged with nitrogen, 0.373 g of fluorene (2.25 mmol) was dissolved in 60 ml of dehydrated diethylether in a nitrogen atmosphere. To the reaction solution, 1.6 ml of a n-butyl lithium/hexane solution (1.56M: 2.50 mmol) was gradually added dropwise in an ice bath and thereafter stirred at room temperature over night. To the reaction solution, a solution prepared by dissolving 1.10 g of 3-tert-butyl-1-methyl-6,6-di(p-tolyl)fulvene (3.36 mmol) in 60 ml of dehydrated diethyl ether was added and stirred under reflux for 10 days. To the reaction mixture, 30 ml of distilled water was gradually added dropwise in an ice bath, and thereafter the organic layer was separated by adding diethyl ether and washed with distilled water and saturated brine. The organic phase was dried with anhydrous magnesium sulfate and then the drying agent was filtered off. The solvent was distilled off from the filtrate under reduced pressure to give a red brown liquid. The red brown liquid was purified by a column chromatography using 80 g of silica gel (developing solvent: n-hexane) and the developing solvent was distilled off under reduced pressure. The residue product was re-crystallized using hexane and dried under reduced pressure, and thereby the aimed compound was obtained in an amount of 0.140 g (0.282 mmol) as a pale yellow solid (yield: 13%).

reactant | fluorene | 2.25 mmol, 0.373 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | n-butyl lithium hexane | 2.50 mmol, 1.56M, 1.6 ml | C(CCC)[Li].CCCCCC
reactant | 3-tert-butyl-1-methyl-6,6-di(p-tolyl)fulvene | 3.36 mmol, 1.10 g | C(C)(C)(C)C=1C=C(C(C1)=C(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C | C25H28
reactant | water | 30 ml | O | H2O
solvent | diethylether | 60 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
product | (3-tert-butyl-5-methyl-cyclopentadienyl) (fluorenyl)di(p-tolyl)methane | C(C)(C)(C)C1=CC(C(=C1)C)C(C1=CC=C(C=C1)C)(C1=CC=C(C=C1)C)C1=CC=CC=2C3=CC=CC=C3CC12 | C38H38
